US04005103
The procedure of Example IX using 32.1 g of 1-cyclopropyl-3-(p-methylphenyl)prop-2-en-1-one, 16.5 ml of nitroethane and 2.1 g of sodium in 170 ml of methanol gives 32 g of 1-cyclopropyl-3-(p-methylphenyl)-4-nitropentanone which is used in the crude state for the remainder of the operations.

reactant | 1-cyclopropyl-3-(p-methylphenyl)prop-2-en-1-one | 32.1 g | C1(CC1)C(C=CC1=CC=C(C=C1)C)=O | C13H14O
reactant | nitroethane | 16.5 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium | 2.1 g | [Na] | Na
reactant | methanol | 170 ml | CO | CH4O
product | 1-cyclopropyl-3-(p-methylphenyl)-4-nitropentanone | 32 g | C1(CC1)CC(C(C(C)[N+](=O)[O-])C1=CC=C(C=C1)C)=O | C15H19NO3
